US09034866B2
10-bromo-9-fluoro-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol similarly to as described in General Procedure F with non-critical modifications to afford 26 mg (28%) of 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-3-(pyrrolidin-1-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide. M+1=480.3.

reactant | 10-bromo-9-fluoro-3-(pyrrolidin-1-ylmethyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C1)F | C17H18BrFN4O2
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 9-fluoro-10-[(3R)-3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-ynyl]-3-(pyrrolidin-1-ylmethyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 26 mg, 28% | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3CCCC3)C=C1C#C[C@](C)(C1=NOC(=C1)C)O | C25H26FN5O4
